US08623896B2
To a solution of 4-(chloro(hydroxyimino)methyl)-2-trifluoromethyl-benzoic acid methyl ester (Example I12) (4.21 g) in isopropanol (100 ml) was added sequentially sodium hydrogen carbonate (2.90 g) and 1,3-dichloro-5-(1-trifluoromethyl-vinyl)-benzene (4.22 g) (prepared according to WO 2005/085216). The reaction mixture was stirred at 60° C. for 16 hours. The isopropanol was removed by distillation. The residue was purified over silica gel (eluent: ethyl acetate/heptane gradient from 0:1 to 2:3) to give 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-trifluoromethyl-benzoic acid methyl ester (4.30 g). 1H-NMR (CDCl3, 400 MHz): 8.00-7.44 (m, 6H), 4.12 (d, 1H), 3.96 (s, 3H), 3.74 (d, 1H).

reactant | 4-(chloro(hydroxyimino)methyl)-2-trifluoromethyl-benzoic acid methyl ester | 4.21 g | COC(C1=C(C=C(C=C1)C(=NO)Cl)C(F)(F)F)=O | C10H7ClF3NO3
reactant | sodium hydrogen carbonate | 2.90 g | C(O)([O-])=O.[Na+]
reactant | 1,3-dichloro-5-(1-trifluoromethyl-vinyl)-benzene | 4.22 g | ClC1=CC(=CC(=C1)C(=C)C(F)(F)F)Cl | C9H5Cl2F3
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-trifluoromethyl-benzoic acid methyl ester | 4.30 g | COC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C(F)(F)F)=O | C19H11Cl2F6NO3
